US05576324
6-Dimethylaminomethyl-5-hydroxy-8-methylcarbostyril:
5-Hydroxy-8-methylcarbostyril (10.51 g, 60 mmol) and dimethylamine (aqueous 40% solution, 12.07 g, 66 mmol) were dissolved in N,N-dimethylformamide (30 ml). To this solution, formaldehyde (aqueous 37% solution, 5.36 g, 66 mmol) was added slowly at room temperature, and stirred. After 12 hours, dimethylamine (6 g, 33 mmol), formaldehyde (2.79 g, 33 mmol), and N,N-dimethylformamide (20 ml) were added thereto, and the mixture was stirred at room temperature for further 12 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, and the resultant residue was combined with chloroform and n-hexane. Crystals were collected by filtration, and dried under reduced pressure. As a result, 13.23 g of the title compound was obtained as pale reddish gray crystals (95%).

reactant | 5-Hydroxy-8-methylcarbostyril | 60 mmol, 10.51 g | OC1=C2C=CC(NC2=C(C=C1)C)=O | C10H9NO2
reactant | dimethylamine | 66 mmol, 12.07 g | CNC | C2H7N
reactant | formaldehyde | 66 mmol, 5.36 g | C=O | CH2O
reactant | dimethylamine | 33 mmol, 6 g | CNC | C2H7N
reactant | formaldehyde | 33 mmol, 2.79 g | C=O | CH2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-Dimethylaminomethyl-5-hydroxy-8-methylcarbostyril | 13.23 g | CN(C)CC=1C(=C2C=CC(NC2=C(C1)C)=O)O | C13H16N2O2
